US06916837B2
The compound (t-butyl 2-(6-cyano-2-naphthyloxy)-5-nitrobenzoate) (760 mg) obtained in a previous production example, iron powder (718 mg) and ammonium chloride (73 mg) were heated to reflux in ethanol:water (3:1, 30 ml) and reacted for 30 minutes. The insoluble portion was immediately filtered using celite, and the filtrate was concentrated. A saturated sodium bicarbonate solution was added to the obtained residue, and extraction was performed with ethyl acetate. The ethyl acetate layer was washed with saturated saline and then dried over magnesium sulfate, and the solvent was distilled off to obtain 736 mg of t-butyl 5-amino-2-(6-cyano-2-naphthyloxy)benzoate.

reactant | t-butyl 2-(6-cyano-2-naphthyloxy)-5-nitrobenzoate | C(#N)C=1C=C2C=CC(=CC2=CC1)OC1=C(C(=O)OC(C)(C)C)C=C(C=C1)[N+](=O)[O-] | C22H18N2O5
reactant | ammonium chloride | 73 mg | [Cl-].[NH4+]
solvent | ethanol water | 30 ml | C(C)O.O
catalyst | iron | 718 mg | [Fe] | Fe
product | t-butyl 5-amino-2-(6-cyano-2-naphthyloxy)benzoate | 736 mg | NC=1C=CC(=C(C(=O)OC(C)(C)C)C1)OC1=CC2=CC=C(C=C2C=C1)C#N | C22H20N2O3
